US06174889B1
6-(N,N-Dimethylamino)-pyrido[3,4-d]pyrimidin-4-one
5-Amino-2-(N,N-dimethylamino)-pyridine-4-carboxylic acid (0.54 g) was treated with formamidine acetate (3.12 g) in glacial acetic acid (20 ml) and heated at reflux for 16 hours. The mixture was cooled, evaporated to dryness in vacuo and partitioned between ethyl acetate and water. The organic phase was separated, dried over magnesium sulphate and concentrated in vacuo to give, after chromatography on silica, the title compound (0.25 g); δH CDCl3 9.10(1H,d), 8.80(1H,s), 8.31(1H,s), 7.07(1H,s), 3.20(6H,s); m/z (M+1+)191.

reactant | 5-Amino-2-(N,N-dimethylamino)-pyridine-4-carboxylic acid | 0.54 g | NC=1C(=CC(=NC1)N(C)C)C(=O)O | C8H11N3O2
reactant | formamidine acetate | 3.12 g | C(C)(=O)O.C(=N)N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-(N,N-Dimethylamino)-pyrido[3,4-d]pyrimidin-4-one | 0.25 g | CN(C)C1=CC2=C(N=CNC2=O)C=N1 | C9H10N4O
